US08703768B2
Step 3: 2-Amino-5-(2-hydroxy-2-methylpropoxy)benzoic acid
A solution of 5-(2-hydroxy-2-methylpropoxy)-2-nitrobenzoic acid (0.145 g, 568 μmol) in ethanol (5 ml) was hydrogenated at normal pressure in the presence of 20 mg Pd/C 10% at r.t overnight. The catalyst was filtered and washed with EtOH. The filtrate was concentrated to give the title compound (127 mg, 99%) as grayish foam.

reactant | 5-(2-hydroxy-2-methylpropoxy)-2-nitrobenzoic acid | 568 μmol, 0.145 g | OC(COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-])(C)C | C11H13NO6
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 2-Amino-5-(2-hydroxy-2-methylpropoxy)benzoic acid | 127 mg, 99% | NC1=C(C(=O)O)C=C(C=C1)OCC(C)(C)O | C11H15NO4
